US08912186B2
The solution of 4-chloro-1,2-phenylenediamine (1.43 g) and chloroacetic acid (1.43 g) in 4M HCl (10 ml) was heated to reflux for 1 h. After cooling to rt overnight the mixture was filtered and the filtrate was cooled in an ice bath. With stirring the solution was adjusted to pH 8 with 25% ammonia solution. A gummy precipitate is formed which is cooled for 1 h. The aqueous layer is removed by decantation and the residue crystallised from acetone/water to yield 5-chloro-2-chloromethylbenzimidazole (1.4 g) as brownish solid.

reactant | 4-chloro-1,2-phenylenediamine | 1.43 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | chloroacetic acid | 1.43 g | ClCC(=O)O | C2H3ClO2
solvent | HCl | 4M, 10 ml | Cl | ClH
product | 5-chloro-2-chloromethylbenzimidazole | 1.4 g | ClC1=CC2=C(N=C(N2)CCl)C=C1 | C8H6Cl2N2
